US04261929
82 g of aqueous phosphorous acid and 32 g of trioxane are dissolved in 200 cc of acetonitrile. 5 cc of phosphorus trichloride are added to said solution. The resulting mixture is heated to boiling under reflux for about two hours. A highly viscous oil separates as a result of the reaction. Unreacted acetonitrile is distilled off. The residue is dissolved in a small amount of water. Addition of acetone precipitates therefrom a white crystalline product which is filtered off and dried at 60° C. in a water jet vacuum. About 100 g of N-acetylaminomethane phosphonic acid are obtained. By thin layer chromatographic investigation of the filtrate it was found that, in addition to phosphorous acid, the solution still contained some additional N-acetylaminomethane phosphonic acid and also another phosphonic acid which apparently is N-acetylimino-bis-methane phosphonic acid.

reactant | phosphorous acid | 82 g | P(O)(O)O | H3O3P
reactant | trioxane | 32 g | O1OOCCC1 | C3H6O3
reactant | phosphorus trichloride | 5 cc | P(Cl)(Cl)Cl | Cl3P
reactant | acetonitrile | 200 cc | C(C)#N | C2H3N
product | N-acetylaminomethane phosphonic acid | 100 g | C(C)(=O)NCP(O)(=O)O | C3H8NO4P
